* Schematics Netlist *



I_I1         0 a DC 1A  
R_R1         0 a  4ohm  
R_R5         a b  1ohm  
R_R2         0 V2  1ohm  
R_R3         0 c  4ohm  
R_R4         $N_0001 b  2ohm  
H_H1         V2 a VH_H1 4
VH_H1        b c 0V
G_G1         b V2 a b 2
V_E         $N_0001 0 10V
